US09421205B2
(e) tert-Butyl 4-(4-((4-(2-(3-(2-ethoxy-2-oxoethyl)pyrazin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I103)
tert-Butyl 4-(4-((4-((3-(2-ethoxy-2-oxoethyl)pyrazin-2-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I102) (187 mg, 0.306 mmol) was dissolved in DMF (20 mL), triethylamine (0.1 mL) and a slurry of 10% Pd/C (0.100 g) in DMF (2 mL) was added. The mixture was purged with 3× vacuum/hydrogen cycles, and then stirred vigorously under a hydrogen atmosphere. After 17 hours the mixture was filtered through celite, and the celite washed with ethyl acetate (200 mL). The combined filtrates were washed with 1:1 water: saturated brine (4×100 mL), dried (sodium sulphate) and evaporated to give the title compound (I103) (142 mg, 76%) as a yellow oil; 1H NMR (400 MHz, d4-MeOD) δ 8.51 (d, J=0.6 Hz, 1H), 8.42 (d, J=2.6 Hz, 1H), 8.34 (d, J=2.6 Hz, 1H), 7.48 (d, J=8.3 Hz, 2H), 7.20-7.13 (m, 2H), 4.21 (dd, J=11.4, 1.8 Hz, 2H), 4.15 (q, J=7.1 Hz, 2H), 3.97 (s, 2H), 3.37 (s, 4H), 2.87 (br s), 2.70 (tt, J=11.9, 3.3 Hz, 1H), 1.83 (d, J=12.4 Hz, 2H), 1.59 (ddd, J=25.6, 12.9, 4.4 Hz, 2H), 1.48 (s, 9H), 1.21 (t, J=7.1 Hz, 3H). LCMS Method C: rt 6.76 min; m/z 615.1 [M+H]+, 559.1 [M-tBu+2H]+, 515.1 [M-Boc+2H]+.

reactant | tert-Butyl 4-(4-((4-((3-(2-ethoxy-2-oxoethyl)pyrazin-2-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.306 mmol, 187 mg | C(C)OC(CC=1C(=NC=CN1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H33F3N6O4
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 0.100 g | [Pd] | Pd
product | tert-Butyl 4-(4-((4-(2-(3-(2-ethoxy-2-oxoethyl)pyrazin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 142 mg, 76% | C(C)OC(CC=1C(=NC=CN1)CCC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H37F3N6O4
